US06849638B2
Preparation of 4-Chloro-6,7-dihydro-5H-cyclopenta[4,5]thieno[2,3-d]pyrimidine
To 10.56 g 5,6,7,8-tetrahydro[1]benzothieno[2,3-d]pyrimidin-4(3H)-one (0.51 mol) and 10 mL dimethylaniline was added, in one portion, 50 mL POCl3. The mixture was heated to reflux for 5 h under argon, cooled and the excess POCl3 was removed by concentration in vacuo. The residue was poured into 200 g ice and neutralized with satd Na2CO3. The resulting blue-gray gum was filtered, washed with water and crystallized from ethanol to give 7.03 g (0.031 mol) of product.

reactant | 5,6,7,8-tetrahydro[1]benzothieno[2,3-d]pyrimidin-4(3H)-one | 0.51 mol, 10.56 g | N1=CNC(C2=C1SC1=C2CCCC1)=O | C10H10N2OS
reactant | dimethylaniline | 10 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 50 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6,7-dihydro-5H-cyclopenta[4,5]thieno[2,3-d]pyrimidine | 0.031 mol, 7.03 g | ClC=1C2=C(N=CN1)SC1=C2CCC1 | C9H7ClN2S
